US07786165B2
ethyl(2E)-3-[4-(dibenzylamino)-2,6-difluorophenyl]acrylate
To an ice-cooled solution of ethyl diethylphosphonoacetate (7.71 g, 34.4 mmol) in tetrahydrofuran (80 mL) was added sodium hydride (60% in oil, 1.38 g, 34.4 mmol) and the mixture was stirred for 30 min. A solution of 4-(dibenzylamino)-2,6-difluorobenzaldehyde (9.28 g, 27.5 mmol) synthesized according to the method described in European Journal of Medicinal Chemistry, 1999, vol. 34, pp. 137-151 in tetrahydrofuran (100 mL) was added dropwise. The mixture was stirred at room temperature for 1 hr, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=97/3-hexane/ethyl acetate=60/40) to give the title compound (9.57 g, yield 85%) as a yellow oil.

reactant | ethyl diethylphosphonoacetate | 34.4 mmol, 7.71 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 34.4 mmol, 1.38 g | [H-].[Na+]
reactant | 4-(dibenzylamino)-2,6-difluorobenzaldehyde | 27.5 mmol, 9.28 g | C(C1=CC=CC=C1)N(C1=CC(=C(C=O)C(=C1)F)F)CC1=CC=CC=C1 | C21H17F2NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ethyl(2E)-3-[4-(dibenzylamino)-2,6-difluorophenyl]acrylate | 9.57 g, yield 85% | C(C1=CC=CC=C1)N(C1=CC(=C(C(=C1)F)/C=C/C(=O)OCC)F)CC1=CC=CC=C1 | C25H23F2NO2
